US05444065
5,6,7,8-Tetrahydro-N4 -(2-methylpropyl)-3-nitro-N2,N2 -bis(phenylmethyl)quinoline-2,4-diamine
5,7,6,8-tetrahydro-4-[(2-methylpropyl)amino]-3-nitroquinolin-2-yl trifluoromethanesulfonate (4.0 g, 0.01 mole), dibenzylamine (1.9 mL, 0.01 mole), triethylamine (1.4 mL, 0.01 mole) and benzene (100 mL) were combined and heated at reflux for 36 hours. The benzene was evaporated under vacuum and the residue purified by silica gel chromatography eluting with hexane:ethyl acetate 70:30 to provide 4.1 g of the desired product as a viscous orange oil.

reactant | 5,7,6,8-tetrahydro-4-[(2-methylpropyl)amino]-3-nitroquinolin-2-yl trifluoromethanesulfonate | 0.01 mole, 4.0 g | FC(S(=O)(=O)OC1=NC=2CCCCC2C(=C1[N+](=O)[O-])NCC(C)C)(F)F | C14H18F3N3O5S
reactant | dibenzylamine | 0.01 mole, 1.9 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | triethylamine | 0.01 mole, 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 5,6,7,8-Tetrahydro-N4 -(2-methylpropyl)-3-nitro-N2,N2 -bis(phenylmethyl)quinoline-2,4-diamine | 4.1 g | CC(CNC1=C(C(=NC=2CCCCC12)N(CC1=CC=CC=C1)CC1=CC=CC=C1)[N+](=O)[O-])C | C27H32N4O2
